US04426522
Into a three-necked flask equipped with a mechanical stirrer and a reflux condenser was placed 1 g of 1-(3-methylbenzyl)-6-aza-uracil, 100 ml of water was added and a vigorous stirring commenced. 1.1 g of zinc powder was added in one portion, and was followed by dropping in 20 ml of glacial acetic acid. The mixture was then vigorously stirred and refluxed for 24 hours. The mixture was thereafter cooled and the precipitate was filtered off with suction. The mass of crystals was dissolved in hot methanol, the solution filtered and the filtrate was left to stand overnight and filtered to yield 0.6 g of 2-(3'-methylbenzyl)-hexahydro-1,2,4-triazine-3,5-dione; m.p. 158°.

reactant | 1-(3-methylbenzyl)-6-aza-uracil | 1 g | CC=1C=C(CN2C(=O)NC(=O)C=N2)C=CC1 | C11H11N3O2
reactant | water | 100 ml | O | H2O
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
catalyst | zinc | 1.1 g | [Zn] | Zn
product | 2-(3'-methylbenzyl)-hexahydro-1,2,4-triazine-3,5-dione | 0.6 g | CC=1C=C(CN2NCC(NC2=O)=O)C=CC1 | C11H13N3O2
